US05055464
A solution of 1 g of 3-amino-2-isopropyl-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide and 1 g of succinimido 2-indolecarboxylate in 35 ml of dimethylformamide is stirred with heating at 70° C. Twenty-four hours later, the reaction mixture is concentrated under reduced pressure, whereto 50 ml of saturated sodium hydrogencarbonate and 50 ml of ethyl acetate are added. The mixture is stirred for a while. The resulting crystals are collected by filtration and recrystallized from a mixed solvent of dimethylformamidemethanol to give 0.92 g of 2-isopropyl 3-(2-indolecarboxamido)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5 acetamide, the decomposition temperature being not less than 300° C.

reactant | 3-amino-2-isopropyl-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide | 1 g | NC1C(SC2=C(N(C1=O)CC(=O)N)C=CC=C2)C(C)C | C14H19N3O2S
reactant | succinimido 2-indolecarboxylate | 1 g | N1C(=CC2=CC=CC=C12)C(=O)ON1C(CCC1=O)=O | C13H10N2O4
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 2-isopropyl 3-(2-indolecarboxamido)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5 acetamide | 0.92 g | C(C)(C)C1SC2=C(N(C(C1NC(=O)C=1NC3=CC=CC=C3C1)=O)CC(=O)N)C=CC=C2 | C23H24N4O3S
